US06720324B2
BENZYL 3-[(3,4-DIFLUOROPHENYL)METHYLENE]-4-OXOPENTANOATE:
A solution of benzyl propionylacetate (36.3 g, 176 mmol), 3,4-difluorobenzaldehyde (25.0 g, 176 mmol), piperidine (0.86 mL, 9.0 mmol) and acetic acid (0.49 mL, 9.0 mmol) was refluxed with removal of water using a Dean-Stark apparatus for 5 h. The solvent was removed in vacuo and the residue was dissolved in EtOAc. The reaction mixture was washed with water (100 mL), followed by brine (100 mL) and dried over anhydrous Na2SO4. The solvent was evaporated, giving a pale yellow syrup (60.2 g). The product was used in the next step without further purification.

reactant | benzyl propionylacetate | 176 mmol, 36.3 g | C(CC)(=O)CC(=O)OCC1=CC=CC=C1 | C12H14O3
reactant | 3,4-difluorobenzaldehyde | 176 mmol, 25.0 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | water | O | H2O
catalyst | piperidine | 9.0 mmol, 0.86 mL | N1CCCCC1 | C5H11N
catalyst | acetic acid | 9.0 mmol, 0.49 mL | C(C)(=O)O | C2H4O2
product | BENZYL 3-[(3,4-DIFLUOROPHENYL)METHYLENE]-4-OXOPENTANOATE | 60.2 g | FC=1C=C(C=CC1F)C=C(CC(=O)OCC1=CC=CC=C1)C(C)=O | C19H16F2O3
